US05395993
A mixture of 576 g (4.0 mol) of 1-nonanol, 262 g (1.0 mol) of triphenylphosphine and 173.4 g (1.1 mol) of 47% strength hydrobromic acid is heated at 100°-120° C. until about 112 ml of water have been removed azeotropically. The mixture is then stirred at 140° C. for 6 h and, after cooling to 25° C., 99 g (1.8 mol) of sodium methylate are added, when the temperature rises to about 45° C. The mixture is then stirred at 25° C. for 0.5 h. At 62° C., 110 g (1.0 mol) of 80% strength 2-hydroxytetrahydrofuran are added, when the temperature rises to 90° C. The mixture is stirred at 80° C. for 2 h and then poured into 300 ml of water. The organic phase is isolated and, after evaporation of the volatiles, is distilled to give 115 g (58%) of 4-tridecenol at 120°/0.1 mbar, E:Z isomer ratio=14:86.

reactant | 1-nonanol | 4.0 mol, 576 g | C(CCCCCCCC)O | C9H20O
reactant | triphenylphosphine | 1.0 mol, 262 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | hydrobromic acid | Br | BrH
reactant | sodium methylate | 1.8 mol, 99 g | C[O-].[Na+]
reactant | 2-hydroxytetrahydrofuran | OC1OCCC1 | C4H8O2
solvent | water | 300 ml | O | H2O
solvent | water | about 112 ml | O | H2O
product | 4-tridecenol | 115 g, 58% | C(CCC=CCCCCCCCC)O | C13H26O
